US04618617
According to substantially the same procedure as that of Example 1, treatment of 5.38 g of 2-(2-fluoro-4-biphenylyl)propionic acid with 4.56 g of 3-tetrahydropyranyloxypropionamidoxime yielded 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-tetrahydropyranyloxyethyl)-1,2,4-oxadiazole.

reactant | 2-(2-fluoro-4-biphenylyl)propionic acid | 5.38 g | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | 3-tetrahydropyranyloxypropionamidoxime | 4.56 g | O1C(CCCC1)OCCC(N)=NO | C8H16N2O3
product | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-tetrahydropyranyloxyethyl)-1,2,4-oxadiazole | FC=1C=C(C(C)C2=NC(=NO2)CCOC2OCCCC2)C=CC1C1=CC=CC=C1 | C23H25FN2O3
